US03976635
A mixture of ethyl 2-hydroxyimino-2-cyanoacetate (8.5 g). water (30 ml) and acetone (4 ml) is stirred at 0°C, and benzyl chloroformate (9.4 g) is added thereto. The resulting mixture is, after adjusted to pH 7 to 8 with the addition of an aqueous solution of sodium hydrogencarbonate, stirred for 3 hours and then filtered. The residue is washed with water and dried to give ethyl 2-benzyloxycarbonyloxyimino-2-cyanoacetate (12.2 g) as crystals. M.P. 101° to 102.5°C.

reactant | ethyl 2-hydroxyimino-2-cyanoacetate | 8.5 g | ON=C(C(=O)OCC)C#N | C5H6N2O3
reactant | water | 30 ml | O | H2O
reactant | benzyl chloroformate | 9.4 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | ethyl 2-benzyloxycarbonyloxyimino-2-cyanoacetate | 12.2 g | C(C1=CC=CC=C1)OC(=O)ON=C(C(=O)OCC)C#N | C13H12N2O5
